US04077966
A method for preparing the monopotassium salt of 1,2,5-thiadiazol-3,4-dicarboxylic acid by double stage saponification of 3,4-dicyano-1,2,5-thiadiazole, this method comprising adding aqueous KOH to an aqueous suspension of 3,4-dicyano-1,2,5-thiadiazole in such amount that the molar ratio of 3,4-dicyano-1,2,5-thiadiazole to KOH is from about 1:1.01 to 1:0.8, and maintaining the temperature at from about 20° to 50° C. to thereby catalytically hydrogenate and form 3-cyano-4-carbamoyl-1,2,5-thiadiazole, effecting further hydrolysis by adding additional aqueous KOH in such amount as to result in an overall molar ratio of 3,4-dicyano-1,2,5-thiadiazole to KOH of from about 1:2.0 to 1:2.35 and an overall molar ratio of 3,4-dicyano-1,2,5-thiadiazole to H2O of from about 1:20 to 1:23, at a temperature of from about 85° to 100° C., to thereby form a solution of the dipotassium salt of 1,2,5-thiadaizole-3,4-dicarboxylic acid, and separating the monopotassium salt by acidifying, to a pH of from about 2 to 3, said solution of dipotassium salt of 1,2,5-thiadiazole-3,4-dicarboxylic acid.

reactant | monopotassium | [K] | K
reactant | 1,2,5-thiadiazol-3,4-dicarboxylic acid | S1N=C(C(=N1)C(=O)O)C(=O)O | C4H2N2O4S
reactant | 3,4-dicyano-1,2,5-thiadiazole | C(#N)C1=NSN=C1C#N | C4N4S
reactant | KOH | [OH-].[K+]
product | 3-cyano-4-carbamoyl-1,2,5-thiadiazole | C(#N)C1=NSN=C1C(N)=O | C4H2N4OS
